US07507740B2
(iv) Production of 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-yn-1-ol
5-(4-{[Tert-butyl(dimethyl)silyl]oxy}but-2-yn-1-yl)-4-chloro-5H-pyrrolo[3,2-d]pyrimidine (408.3 mg) was dissolved in isopropyl alcohol (7 mL), 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (421.0 mg) was added, and the mixture was stirred at 80° C. for 6 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained oil was dissolved in tetrahydrofuran (6 mL), a 1.0 M solution (2 mL) of tetrabutylammonium fluoride in tetrahydrofuran was added, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=67:33→20:80) and crystallized from hexane/ethyl acetate to give the title compound (425 mg) as white crystals.

reactant | 5-(4-{[Tert-butyl(dimethyl)silyl]oxy}but-2-yn-1-yl)-4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 408.3 mg | [Si](C)(C)(C(C)(C)C)OCC#CCN1C=CC=2N=CN=C(C21)Cl | C16H22ClN3OSi
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 421.0 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | Water | O | H2O
solvent | isopropyl alcohol | 7 mL | C(C)(C)O | C3H8O
product | 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]but-2-yn-1-ol | 425 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CC#CCO | C23H16ClF3N4O2
